US07696213B2
2-Amino-8-cyclobutyl-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carbonitrile (Compound 269)
To a solution of 2-amino-6-bromo-8-cyclobutyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (371 mg, 1.20 mmol) in NMP (4 mL) was added CuCN (480 mg, 5.36 mmol). The mixture was sealed and heated at 220° C. for 30 min using microwave irradiation. The mixture was poured into brine and filtered to give a solid. The aqueous phase was extracted with t-butyl methyl ether (3 times), dried and evaporated. The combined solid was purification by flash chromatography, using 0 to 3% MeOH/CHCl3, to give the title compound (240 mg, 78%).

reactant | 2-amino-6-bromo-8-cyclobutyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.20 mmol, 371 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)C2CCC2)C | C12H13BrN4O
reactant | CuCN | 5.36 mmol, 480 mg | C(#N)[Cu]
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-8-cyclobutyl-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carbonitrile | 240 mg, 78% | NC=1N=C(C2=C(N1)N(C(C(=C2)C#N)=O)C2CCC2)C | C13H13N5O
